US08541588B2
tert-Butyl 3-(2-{[tert-butyl(dimethyl)silyl]oxy}-5-chlorophenyl)azetidine-1-carboxylate
Zinc powder (700 mg, 10.7 mmol) was suspended in N,N-dimethylformamide (20 ml) under nitrogen. 1,2-dibromoethane (120 ul) was added and suspension heated to 60° C. for 10 minutes before cooling to room temperature. Chlorotrimethylsilane (180 ul) was added and the mixture heated to 60° C. for 10 minutes then cooled to room temperature. tert-Butyl 3-iodoazetidine-1-carboxylate (3.0 g, 10.6 mmol) was added with a slight exotherm observed. The mixture was stirred at room temperature for 1 hour before the addition of tert-butyl(4-chloro-2-iodophenoxy)dimethylsilane (Preparation 239, 2.2 g, 5.97 mmol) followed immediately by tri-2-furylphosphine (250 mg, 1.08 mmol) and (1E,4E)-1,5-diphenylpenta-1,4-dien-3-one-palladium (2:1) (300 mg, 0.52 mmol). The mixture was stirred at room temperature for 30 minutes then heated at 70° C. for 5 hours before concentration in vacuo. The residue was partitioned between ethyl acetate (100 ml) and aqueous sodium carbonate solution (50 ml). The organic extract was dried over sodium sulphate, filtered and evaporated in vacuo to afford the title compound as a brown oil, 3.2 g,

reactant | 1,2-dibromoethane | 120 ul | BrCCBr | C2H4Br2
reactant | Chlorotrimethylsilane | 180 ul | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-Butyl 3-iodoazetidine-1-carboxylate | 10.6 mmol, 3.0 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | tert-butyl(4-chloro-2-iodophenoxy)dimethylsilane | 5.97 mmol, 2.2 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)Cl)I | C12H18ClIOSi
reactant | tri-2-furylphosphine | 1.08 mmol, 250 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | Zinc | 10.7 mmol, 700 mg | [Zn] | Zn
catalyst | (1E,4E)-1,5-diphenylpenta-1,4-dien-3-one palladium | 0.52 mmol, 300 mg | C1(=CC=CC=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O.[Pd]
product | tert-Butyl 3-(2-{[tert-butyl(dimethyl)silyl]oxy}-5-chlorophenyl)azetidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)Cl)C1CN(C1)C(=O)OC(C)(C)C | C20H32ClNO3Si
